US05420275
3-Amino-4,5-dimethoxycarbonyl-6-methoxy-2-methylpyridine
In 5 ml of ethyl acetate was dissolved 350 mg of 3,4-dimethoxycarbonyl-2-methoxy-6-methyl-5-nitropyridine, and 300 mg of 10% Pd-C (50% wet) was added to the solution. Catalytic reduction reaction was conducted for 4.5 hours. After the reaction mixture was dried over magnesium sulfate, the solvent was distilled off to afford an oily product.

reactant | 3,4-dimethoxycarbonyl-2-methoxy-6-methyl-5-nitropyridine | 350 mg | COC(=O)C=1C(=NC(=C(C1C(=O)OC)[N+](=O)[O-])C)OC | C11H12N2O7
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 300 mg | [Pd] | Pd
product | 3-Amino-4,5-dimethoxycarbonyl-6-methoxy-2-methylpyridine | NC=1C(=NC(=C(C1C(=O)OC)C(=O)OC)OC)C | C11H14N2O5
